US09447078B2
A mixture of cyclohexylmethyl 5-bromofuran-2-carboxylate (0.63 g, 2.19 mmol) and ethynylcyclohexane (0.32 g, 2.96 mmol) in Et3N (10 mL) was degassed by bubbling Ar. CuI (0.023 g, 0.119 mmol) and PdCl2(Ph3P)2 (0.0412 g, 0.0587 mmol) were added and the reaction mixture was degassed by alternating vac/Ar three 3 times. The reaction mixture was stirred at +70° C. under Ar overnight and concentrated under reduced pressure. The residue was partitioned between hexanes and aqueous NH4Cl (25%) and aqueous layer was extracted twice with hexanes. Combined organic layers were washed with brine, treated with activated charcoal and dried over anhydrous MgSO4. Concentration under reduced pressure gave cyclohexylmethyl 5-(cyclohexylethynyl)furan-2-carboxylate as an orange solid which was used directly in the next step without additional purification. Yield (0.75 g, quant.); 1H NMR (400 MHz, CDCl3) δ 7.10 (d, J=3.9 Hz, 1H), 6.50 (d, J=3.9 Hz, 1H), 4.10 (d, J=6.4 Hz, 2H), 1.56-2.66 (m, 1H), 1.63-1.84 (m, 9H), 1.42-1.60 (m, 4H), 1.10-1.40 (m, 6H), 0.96-1.10 (m, 2H).

reactant | cyclohexylmethyl 5-bromofuran-2-carboxylate | 2.19 mmol, 0.63 g | BrC1=CC=C(O1)C(=O)OCC1CCCCC1 | C12H15BrO3
reactant | ethynylcyclohexane | 2.96 mmol, 0.32 g | C(#C)C1CCCCC1 | C8H12
solvent | Et3N | 10 mL | CCN(CC)CC | C6H15N
catalyst | CuI | 0.119 mmol, 0.023 g | [Cu]I
product | cyclohexylmethyl 5-(cyclohexylethynyl)furan-2-carboxylate | C1(CCCCC1)C#CC1=CC=C(O1)C(=O)OCC1CCCCC1 | C20H26O3
